US07713994B2
6-Iodo-4-{[(4-hydroxy-5-methoxy-pyridin-2-ylmethyl)-amino]-methylene}-4H-isoquinoline-1,3-dione
A mixture of 2-aminomethyl-5-methoxy-pyridin-4-ol (116 mg, 0.75 mmole), 4 mL of N,N-dimethylformamide and 4-methoxymethylene-6-iodo-4H-isoquinoline-1,3-dione (247 mg, 0.75 mmole) is added and the reaction mixture stirred for one hour. The reaction mixture is evaporated to dryness and treated with acetonitrile, the solid filtered and dried to give a pink solid, 293 mg, (87%); MS (ES+): m/z 451.9 (M+H).

reactant | 2-aminomethyl-5-methoxy-pyridin-4-ol | 0.75 mmole, 116 mg | NCC1=NC=C(C(=C1)O)OC | C7H10N2O2
reactant | 4-methoxymethylene-6-iodo-4H-isoquinoline-1,3-dione | 0.75 mmole, 247 mg | COC=C1C(NC(C2=CC=C(C=C12)I)=O)=O | C11H8INO3
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | 6-Iodo-4-{[(4-hydroxy-5-methoxy-pyridin-2-ylmethyl)-amino]-methylene}-4H-isoquinoline-1,3-dione | IC=1C=C2C(C(NC(C2=CC1)=O)=O)=CNCC1=NC=C(C(=C1)O)OC | C17H14IN3O4
